US04847256
4,5-Dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine
To a stirred mixture of 25.0 g of 7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine in 250 ml of glacial acetic acid, at room temperature, under nitrogen was added portionwise 14.92 g of sodium cyanoborohydride. The resultant solution was stirred for 24 hours, and then was evaporated in vacuo to give an oil. The oil was dissolved in chloroform and washed with saturated sodium bicarbonate. The organic layer was separated, dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated in vacuo to give a semi-solid which was chromatographed on a silica gel column using a mixture of 25% ethyl acetate and 75% hexane as the solvent system. The product fraction was collected and evaporated to give 6.2 g of the desired product as orange crystals, mp 61°-64° C.

reactant | 7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine | 25.0 g | FC(C=1C=C(C=CC1)C1=CC=NC=2N1N=CC2)(F)F | C13H8F3N3
reactant | sodium cyanoborohydride | 14.92 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4,5-Dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine | 6.2 g | FC(C=1C=C(C=CC1)C1=CCNC=2N1N=CC2)(F)F | C13H10F3N3
